US07727988B2
5-Pyrazin-2-yl-1H-pyrimidine-2,4-dione hydrochloride (Prep125)
2,4-Dimethoxy-5-pyrazin-2-yl-pyrimidine (Prep124, 481 mg, 2.19 mmol) was dissolved in 4M HCl in dioxane solution (7 ml). After refluxing the reaction mixture for 1 hour, the solvent was removed under vacuum to give the title compound (quantitative yield)

reactant | 2,4-Dimethoxy-5-pyrazin-2-yl-pyrimidine | 2.19 mmol, 481 mg | COC1=NC=C(C(=N1)OC)C1=NC=CN=C1 | C10H10N4O2
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 7 ml | O1CCOCC1 | C4H8O2
product | 5-Pyrazin-2-yl-1H-pyrimidine-2,4-dione hydrochloride | quantitative yield | Cl.N1=C(C=NC=C1)C=1C(NC(NC1)=O)=O | InChI=1S/C8H6N4O2.ClH/c13-7-5(3-11-8(14)12-7)6-4-9-1-2-10-6;/h1-4H,(H2,11,12,13,14);1H
